US06313122B1
B. N1-(3-Cyanobenzoyl)-1,2-benzenediamine
A mixture of N-(3-cyanobenzoyl)-2-nitroaniline (1.0 g, 3.7 mmol), 10% palladium-on-carbon, and ethyl acetate (250 mL) was hydrogenated at one atmospheric pressure for 30 min. The mixture was filtered through diatomaceous earth and concentrated in vauco. Chromatography (silica gel, 50% ethyl acetate/50% hexanes) of the residue yielded 630 mg (72%) of the title compound as a yellow solid, mp 197-200° C.

reactant | N-(3-cyanobenzoyl)-2-nitroaniline | 3.7 mmol, 1.0 g | C(#N)C=1C=C(C(=O)NC2=C(C=CC=C2)[N+](=O)[O-])C=CC1 | C14H9N3O3
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | N1-(3-Cyanobenzoyl)-1,2-benzenediamine | 630 mg, 72% | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)N)C=CC1 | C14H11N3O
